US04221789
1.6 1-(Tetrahydro-2-oxo-3-furyl)-2-piperidinone
1.25 g (0.05 mol) of sodium hydride (2.5 g of a 50% commercial suspension in paraffin, previously washed twice with benzene) are suspended in 50 ml of anhydrous N,N-dimethylformamide. A solution of 4.95 g (0.05 mol) of 2-piperidinone in 20 ml of N,N-dimethylformamide is added dropwise to the suspension. The mixture is then heated to 60° C. until no more gas is evolved, whereafter it is cooled. A solution of 8.25 g (0.05 mol) of 3-bromodihydro-2(3H)-furanone in 20 ml of anhydrous N,N-dimethylformamide is added dropwise while keeping the temperature at 5° to 10° C. The mixture is then stirred at 60° C. for 5 hours. N,N-Dimethylformamide is evaporated off under reduced pressure. The residue is taken up in chloroform and the insoluble matter filtered off on Norit. The filtrate is again evaporated and 9.8 g of a heavy syrup are obtained. Mass spectrum: M+. at 183 m/e.

reactant | sodium hydride | 0.05 mol, 1.25 g | [H-].[Na+]
reactant | 2-piperidinone | 0.05 mol, 4.95 g | N1C(CCCC1)=O | C5H9NO
reactant | 3-bromodihydro-2(3H)-furanone | 0.05 mol, 8.25 g | BrC1C(OCC1)=O | C4H5BrO2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(Tetrahydro-2-oxo-3-furyl)-2-piperidinone | 9.8 g | O=C1OCCC1N1C(CCCC1)=O | C9H13NO3
